US06110929
Under a nitrogen atmosphere, butyryl chloride (0.76 mL, 7.3 mmol) was added dropwise to a mixture of 3-amino-7-chloro-4-hydroxyquinoline (1.3 g, 6.7 mmol), triethylamine (3.0 mL, 21.5 mmol) and anhydrous tetrahydrofuran (20 mL). The reaction mixture was maintained at ambient temperature overnight. The resulting precipitate was isolated by filtration, washed with water followed by tetrahydrofuran, and then vacuum dried to provide 1.05 g of N-(7-chloro-4-hydroxyquinolin-3-yl)butanamide as a tan powder.

reactant | butyryl chloride | 7.3 mmol, 0.76 mL | C(CCC)(=O)Cl | C4H7ClO
reactant | 3-amino-7-chloro-4-hydroxyquinoline | 6.7 mmol, 1.3 g | NC=1C=NC2=CC(=CC=C2C1O)Cl | C9H7ClN2O
reactant | triethylamine | 21.5 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(7-chloro-4-hydroxyquinolin-3-yl)butanamide | 1.05 g | ClC1=CC=C2C(=C(C=NC2=C1)NC(CCC)=O)O | C13H13ClN2O2
